US07700589B2
2-(3,4-dimethyl-benzyl)-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butan-1,4-dione
Prepared analogously to Example 76e) from 2-(3,4-dimethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoic acid and 1-methyl-4-piperidin-4-yl-piperazine

reactant | 2-(3,4-dimethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoic acid | CC=1C=C(CC(C(=O)O)CC(N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)=O)C=CC1C | C26H31N3O4
reactant | 1-methyl-4-piperidin-4-yl-piperazine | CN1CCN(CC1)C1CCNCC1 | C10H21N3
product | 2-(3,4-dimethyl-benzyl)-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butan-1,4-dione | CC=1C=C(CC(C(=O)N2CCC(CC2)N2CCN(CC2)C)CC(=O)N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)C=CC1C | C36H50N6O3
